US08106043B2
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (57 mg, 0.164 mmol) in methanol (2 mL) was added hydrogen chloride (1 M in diethyl ether; 0.493 mL, 0.493 mmol). The resulting mixture was then concentrated in vacuo to give a yellow-orange solid (68 mg, 99%). 1H NMR (DMSO-d6) δ 11.49 (s, 1H), 11.09 (brs, 1H), 9.74 (s, 1H), 8.78 (s, 1H), 8.19-8.12 (m, 2H), 7.39-7.33 (m, 1H), 7.15-7.05 (m, 2H), 6.66-6.60 (m, 1H), 3.79-3.70 (m, 2H), 3.70-3.60 (m, 2H), 3.32-3.21 (m, 2H), 3.16-3.08 (m, 2H), 2.81-2.74 (m, 6H); HRMS (C17H23N4S2, MH+, free base): calculated: 347.1358, observed: 347.1349. HPLC purity: 95% by area.

reactant | N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 0.164 mmol, 57 mg | CN(CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2)C | C17H22N4S2
reactant | hydrogen chloride | 0.493 mmol, 1 M, 0.493 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 68 mg, 99% | Cl.Cl.CN(CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2)C | InChI=1S/C17H22N4S2.2ClH/c1-20(2)7-8-21-9-11-23-15-6-5-13(12-14(15)21)19-17(18)16-4-3-10-22-16;;/h3-6,10,12H,7-9,11H2,1-2H3,(H2,18,19);2*1H
